US05688803
9-Methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
3.0 g (0.011 mol) of ethyl 2-hydroxy-6-methoxy-quinazoline-4-yl-carbazate in 70 ml of dimethylformamide were boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off, washed with methanol and dried in a vacuum. There were obtained white crystals which were recrystallized from methanol/acetone. Yield: 1.16 g (46%) of 9-methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as beige crystals; m.p. >350° C.

reactant | ethyl 2-hydroxy-6-methoxy-quinazoline-4-yl-carbazate | 0.011 mol, 3.0 g | OC1=NC2=CC=C(C=C2C(=N1)N(C(=O)OCC)N)OC | C12H14N4O4
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 9-Methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | COC1=CC=2C=3N(C(NC2C=C1)=O)C(NN3)=O | C10H8N4O3
